US04243406
The procedure of Example 27 was employed utilizing ethyl-5-phenyl-4-isoxazolecarboxylate in lieu of ethyl-5-(2',4'-dichlorophenyl)-4-isoxazolecarboxylate to yield upon recrystallization with toluene, 5-phenyl-4-isoxazolecarboxylic acid (7.5 g.; 55% yield) as a white solid having a melting point of 153°-154° C. and the following analysis:

reactant | ethyl-5-phenyl-4-isoxazolecarboxylate | C(C)OC(=O)C=1C=NOC1C1=CC=CC=C1 | C12H11NO3
reactant | ethyl-5-(2',4'-dichlorophenyl)-4-isoxazolecarboxylate | C(C)OC(=O)C=1C=NOC1C1=C(C=C(C=C1)Cl)Cl | C12H9Cl2NO3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-phenyl-4-isoxazolecarboxylic acid | 7.5 g, 55% yield | C1(=CC=CC=C1)C1=C(C=NO1)C(=O)O | C10H7NO3
